US07420001B2
To 5-chloro-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester (120 mg, 0.47 mmol) was added 0.3 mL (4.7 mmol) of iodomethane, 130 mg (2 eq) of K2CO3 and 4 mL of DMF. The mixture was stirred at room temperature overnight. The mixture was washed with brine and extracted with ethyl acetate. The combined organic solution was washed with brine and water. Removal of the solvent in vacuo gavel 19 mg (94% yield) of 5-chloro-4-methoxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester as a white solid.

reactant | 5-chloro-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 0.47 mmol, 120 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)Cl)O | C12H11ClO4
reactant | iodomethane | 4.7 mmol, 0.3 mL | IC | CH3I
reactant | K2CO3 | 130 mg, 2 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 5-chloro-4-methoxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 19 mg, 94% yield | C(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)Cl)OC | C13H13ClO4
